US06448242B1
Preparation of 1,2-bis[4-[(E,E)-5-(3,4,5-trimethoxyphenyl)-2,4-pentadienoyl]-1-piperazinyl]ethane dihydrochloride
Concentrated hydrochloric acid (0.050 ml; 0.60 mmol) was added to a solution in ethanol (5 ml) of 1,2- bis[4-[(E,E)-5-(3,4,5-trimethoxyphenyl)-2,4-pentadienoyl]-1-piperazinyl]ethane (128 mg; 0.19 nmmol) synthesized in the above process and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from methanoldiethyl ether to obtain the title compound as a pale yellow crystalline powder.

reactant | hydrochloric acid | 0.60 mmol, 0.050 ml | Cl | ClH
reactant | 1,2- bis[4-[(E,E)-5-(3,4,5-trimethoxyphenyl)-2,4-pentadienoyl]-1-piperazinyl]ethane | 128 mg | COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)N1CCN(CC1)CCN1CCN(CC1)C(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O | C38H50N4O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,2-bis[4-[(E,E)-5-(3,4,5-trimethoxyphenyl)-2,4-pentadienoyl]-1-piperazinyl]ethane dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)N1CCN(CC1)CCN1CCN(CC1)C(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O | InChI=1S/C38H50N4O8.2ClH/c1-45-31-25-29(26-32(46-2)37(31)49-5)11-7-9-13-35(43)41-21-17-39(18-22-41)15-16-40-19-23-42(24-20-40)36(44)14-10-8-12-30-27-33(47-3)38(50-6)34(28-30)48-4;;/h7-14,25-28H,15-24H2,1-6H3;2*1H/b11-7+,12-8+,13-9+,14-10+;;
